US20010027196A1
2-Amino-4-furan-2-yl-6-(4-trifluoromethyl-benzylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 4-(trifluoromethyl)benzylamine in DME. ES-MS m/e (%): 360 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(4-trifluoromethyl-benzylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC=C(C=C1)C(F)(F)F | C17H12F3N5O
